US04537897
100 ml of a solution of 1.85M of butyllithium in cyclohexane were slowly added at -100° C. to a cyclohexane solution containing 58.34 g of methyl (1R,cis) 2,2-dimethyl-3-(2,2-dibromovinyl)-cyclopropane-carboxylate and the mixture was stirred at -100° C. for 30 minutes, at -60° C. for one hour and was then poured into an iced aqueous monosodium phosphate solution. The mixture was extracted with benzene and the organic phase was evaporated to dryness under reduced pressure. The residue was rectified to obtain 14.5 g of methyl (1R,cis) 2,2-dimethyl-3-ethynyl-cyclopropane-carboxylate with a boiling point of 40° C. at 0.5 mm Hg.

reactant | butyllithium | 1.85M | C(CCC)[Li]
reactant | methyl (1R,cis) 2,2-dimethyl-3-(2,2-dibromovinyl)-cyclopropane-carboxylate | 58.34 g | CC1([C@@H]([C@@H]1C=C(Br)Br)C(=O)OC)C | C9H12Br2O2
reactant | monosodium phosphate | P(=O)([O-])(O)O.[Na+]
solvent | cyclohexane | C1CCCCC1 | C6H12
product | methyl (1R,cis) 2,2-dimethyl-3-ethynyl-cyclopropane-carboxylate | 14.5 g | CC1([C@@H]([C@@H]1C#C)C(=O)OC)C | C9H12O2
